### PR TITLE
[Merged by Bors] - feat: the class equation (groups)

### PR DESCRIPTION
**Pull request by ericrbg**
This is mostly mathported work of Johan's towards Wedderburn's Little theorem. 

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Review by jcommelin — APPROVED** [review]
LGTM

File: Mathlib/GroupTheory/ClassEquation.lean [hunk 1]
```diff
@@ -0,0 +1,76 @@
...
+  refine eq_iff_eq_cancel_left.2 (ConjClasses.mk_eq_mk_iff_isConj.2 ?_)
+  rw [← mem_orbit_conjAct, ← orbitRel_apply]
+  apply Quotient.exact'
+  rw [Quotient.out_eq']
+  rfl
+
+/-- The **class equation** for finite groups. The cardinality of a group is equal to the size
+of its center plus the sum of the size of all its nontrivial conjugacy classes. -/
+theorem Group.card_center_add_sum_card_noncenter_eq_card [Group G] [Finite G] :
+    Nat.card (Subgroup.center G) + ∑ᶠ x ∈ noncenter G, Nat.card x.carrier = Nat.card G := by
```
Comment (tb65536) [inline Mathlib/GroupTheory/ClassEquation.lean:54]: Could you add the version without `noncenter`?

File: Mathlib/GroupTheory/ClassEquation.lean [hunk 2]
```diff
@@ -0,0 +1,76 @@
...
+
+/-- The conjugacy classes form a partition of G, in terms of cardinality. A triviality but helps
+to prove the class equation. -/
+theorem sum_conjClasses_card_eq_card [Group G] [Fintype (ConjClasses G)]
+    [∀ x : ConjClasses G, Fintype x.carrier] [Fintype G] :
+    ∑ x : ConjClasses G, x.carrier.toFinset.card = Fintype.card G := by
+  let e : Quotient (orbitRel (ConjAct G) G) ≃ ConjClasses G :=
+    Quotient.congrRight fun g h ↦ mem_orbit_conjAct
+  classical
+  rw [← e.sum_comp, card_eq_sum_card_group_div_card_stabilizer (ConjAct G) G]
```
Comment (tb65536) [inline Mathlib/GroupTheory/ClassEquation.lean:37]: I feel like there should be a more direct proof that doesn't involve stabilizer subgroups. Maybe prove a bijection of the form `G ≃ ∑ x : ConjClasses G, x.carrier`?

Comment (tb65536) [reply Mathlib/GroupTheory/ClassEquation.lean:37]: Ah, maybe using `selfEquivSigmaOrbits`?

File: Mathlib/GroupTheory/ClassEquation.lean (hunk 1 above)
Comment (ericrbg) [reply Mathlib/GroupTheory/ClassEquation.lean:54]: As in `∑ᶠ x, Nat.card x.carrier = Nat.card G`?

Comment (tb65536) [reply Mathlib/GroupTheory/ClassEquation.lean:54]: Yes

Comment (tb65536) [reply Mathlib/GroupTheory/ClassEquation.lean:54]: Also, if `x.carrier` is a set, then you might consider using `Set.ncard`.

Comment (ericrbg) [reply Mathlib/GroupTheory/ClassEquation.lean:54]: awesome, done all this

File: Mathlib/GroupTheory/ClassEquation.lean (hunk 2 above)
Comment (ericrbg) [reply Mathlib/GroupTheory/ClassEquation.lean:37]: I tried and I'm just ending up fighting against the API because they're technically two different quotient types, but I can't `subst` anything in to stop making a mess (just copy+paste this into the file):

```lean4
example [Group G] [Fintype (ConjClasses G)]
    [∀ x : ConjClasses G, Fintype x.carrier] [Fintype G] :
    ∑ x : ConjClasses G, x.carrier.toFinset.card = Fintype.card G := by
  suffices : (Σ x : ConjClasses G, x.carrier) ≃ G
  · simpa using Fintype.card_congr this
  refine Equiv.trans ?_ (selfEquivSigmaOrbits (ConjAct G) G).symm
  refine Equiv.sigmaCongr ?_ ?_
  · rw [ConjClasses, orbitRel.Quotient]
    suffices : IsConj.setoid G = orbitRel (ConjAct G) G
    · rw [this]
    ext
    rw [orbitRel_conjAct]
    rfl
  sorry
```

If you have any ideas I'm all ears

Comment (tb65536) [reply Mathlib/GroupTheory/ClassEquation.lean:38]: Does this help?
```
def equivSigmaConjClasses : G ≃ Σ x : ConjClasses G, x.carrier := by
  simp_rw [carrier_eq_preimage_mk]
  exact (Equiv.sigmaFiberEquiv ConjClasses.mk).symm
```

Comment (ericrbg) [reply Mathlib/GroupTheory/ClassEquation.lean]: ahh, awesome, I don't know what I was overcomplicating everything!

File: Mathlib/GroupTheory/GroupAction/Quotient.lean [hunk 3]
```diff
@@ -350,6 +350,14 @@ instance isPretransitive_quotient (G) [Group G] (H : Subgroup G) : IsPretransiti
 
 end MulAction
 
+theorem ConjClasses.card_carrier [Group G] [Fintype G] (g : G) [Fintype (ConjClasses.mk g).carrier]
+    [Fintype <| MulAction.stabilizer (ConjAct G) g] : Fintype.card (ConjClasses.mk g).carrier =
+      Fintype.card (ConjAct G) / Fintype.card (MulAction.stabilizer (ConjAct G) g) := by
```
Comment (tb65536) [inline Mathlib/GroupTheory/GroupAction/Quotient.lean:355]: I think `card G` makes more sense than `card (ConjAct G)`. And perhaps it would be nicer to state this result in terms of `Finite` and `Nat.card`, to avoid all the fintype assumptions?

**Review by jcommelin — APPROVED** [review]
Thanks :tada:

bors merge
